US05661160
Synthesis of 1-[3-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-5-oxo-pyrrolidin-3-yl]-propyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare according to the method of example 3.3 using 3-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-5-oxo-pyrrolidin-3-yl]-propyl-methanesulfonate (5 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (7.5 mmol, 1.5 eq.). Chromatograph on silica gel to give the title compound.

reactant | 3-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-5-oxo-pyrrolidin-3-yl]-propyl-methanesulfonate | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CN(C(C1)=O)CC1=CC(=C(C(=C1)OC)OC)OC)CCCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 7.5 mmol, 1.5 eq. | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[3-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-5-oxo-pyrrolidin-3-yl]-propyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(C(C1)=O)CC1=CC(=C(C(=C1)OC)OC)OC)CCCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C35H41Cl2N3O5
